US06121433
1-(Methanesulfonyl)-3-chloro-propanol (103b)
To 3-chloro-1-propanol (5.02 mL, 60 mmole) in CH3CN (200 mL) was added methanesulfonyl chloride (10.4 g, 90 mmole) and triethyl amine (13 mL, 90 mmole). The reaction mixture was stirred at room temperature for 12 hours under an argon atmosphere. 200 mL of saturated NaHCO3 (aq) was added and the stirring was continued for 15 minutes. The mixture was extracted several times with ether. The combined ether layers were dried over Na2SO4, the Na2SO4 was filtered and the filtrate was evaporated to give 10 g (96.6%) of the title compound: TLC (Rf: 0.3; 20% EtOAc/Hexane), 1H NMR (CDCl3) δ 2.2 (m, 2 H, CH2), 3.0 (s, 3 H, CH3), 3.6 (t, 2 H, CH2), 4.4 (t, 2 H, CH2). 13C NMR (CDCl3): δ 31.5 (CH2), 37.0 (CH3), 40.2 (CH2), 66.3 (CH2).

reactant | 3-chloro-1-propanol | 60 mmole, 5.02 mL | ClCCCO | C3H7ClO
reactant | methanesulfonyl chloride | 90 mmole, 10.4 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethyl amine | 90 mmole, 13 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | 1-(Methanesulfonyl)-3-chloro-propanol | 10 g, 96.6% | CS(=O)(=O)C(CCCl)O | C4H9ClO3S
